US07582769B2
1-{2-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonylamino}-cyclopropanecarboxylic acid
Prepared in a similar manner to [2-(3,3-dicyclohexyl-ureido)-thiazole-5-sulfonylamino]-acetic acid via cyclohexyl-(trans-4-methyl-cyclohexyl)-amine and 1-(2-amino-thiazole-5-sulfonylamino)-cyclopropanecarboxylic acid ethyl ester to give the title compound.

reactant | [2-(3,3-dicyclohexyl-ureido)-thiazole-5-sulfonylamino]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)S(=O)(=O)NCC(=O)O)=O)C1CCCCC1 | C18H28N4O5S2
reactant | cyclohexyl-(trans-4-methyl-cyclohexyl)-amine | C1(CCCCC1)N[C@@H]1CC[C@H](CC1)C | C13H25N
reactant | 1-(2-amino-thiazole-5-sulfonylamino)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)NS(=O)(=O)C1=CN=C(S1)N | C9H13N3O4S2
product | 1-{2-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonylamino}-cyclopropanecarboxylic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)S(=O)(=O)NC1(CC1)C(=O)O)=O)[C@@H]1CC[C@H](CC1)C | C21H32N4O5S2
